US08372807B2
NaOH (60% oil, 30 mg, 0.61 mmol) was added to a solution of 5-(1H-benzo[d][1,2,3]triazol-1-yl)-4-(naphthalen-1-yl)-1,2,3-thiadiazole and methylthioglycolate (64 mg, 0.61 mmol) in DMF (3 mL) and the mixture was stirred at room temperature for 2 h. 1N HCl was then added and the mixture was extracted with ethyl acetate, dried over Na2SO4 and concentrated. Purification by TLC (100% DCM) afforded methyl 2-(4-(naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetate.

reactant | NaOH | 0.61 mmol, 30 mg | [OH-].[Na+]
reactant | 5-(1H-benzo[d][1,2,3]triazol-1-yl)-4-(naphthalen-1-yl)-1,2,3-thiadiazole | N1(N=NC2=C1C=CC=C2)C2=C(N=NS2)C2=CC=CC1=CC=CC=C21 | C18H11N5S
reactant | methylthioglycolate | 0.61 mmol, 64 mg | CC(C(=O)[O-])S
reactant | HCl | 1N | Cl | ClH
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-(naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetate | C1(=CC=CC2=CC=CC=C12)C=1N=NSC1SCC(=O)OC | C15H12N2O2S2
